US06166028
3-Dimethylamino-5-trifluoromethyl-benzaldehyde
Diisobutylaluminum hydride (10 mL of a 1 M solution in methylene chloride) is added dropwise to a solution of 3-dimethylamino-5-trifluoromethylbenzonitrile (1.06 g) in methylene chloride (25 mL) at 0° C. and the mixture stirred for 2 hours. While still at 0° C. a saturated aqueous solution of sodium potassium tartrate (8 mL) is slowly added and the solution is stirred for 1.5 hours. The reaction mixture is then extracted with ethyl acetate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide the desired product as a yellow solid (0.97 g).

reactant | Diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 3-dimethylamino-5-trifluoromethylbenzonitrile | 1.06 g | CN(C=1C=C(C#N)C=C(C1)C(F)(F)F)C | C10H9F3N2
reactant | sodium potassium tartrate | 8 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-Dimethylamino-5-trifluoromethyl-benzaldehyde | 0.97 g | CN(C=1C=C(C=O)C=C(C1)C(F)(F)F)C | C10H10F3NO
